US06465472B1
6,7-Methylenedioxy-4-phenylquinazolin-2(1H)-one
To a solution of 2-benzoyl-4,5-(methylenedioxy)aniline (200 mg) in AcOH (10 mL) was added water (1 mL) and NaOCN (64 mg) at 10° C. The mixture was stirred at 10° C. for 1 h, then at rt for 2 h. water (70 mL) was added to the mixture. The resulting yellow solid was collected by filtration, washed with water and 3:2 hexane/EtOAc, recrystallized from DMSO/water to yield the title compound as a yellow solid (104 mg, 47%), mp: 351-354° C. 1H NMR (DMSO-d6): 11.86 (s, 1H), 7.63-7.58 (m, 5H), 6.94 (s, 1H), 6.85 (s, 1H), 6.16 (s, 2H). Anal. calcd. for C15H10N2O3: C, 67.67; H, 3.79; N, 10.52. Found: C, 67.53; H, 3.76; N, 10.29.

reactant | 2-benzoyl-4,5-(methylenedioxy)aniline | 200 mg | C(C1=CC=CC=C1)(=O)C1=C(N)C=C2C(=C1)OCO2 | C14H11NO3
reactant | water | 1 mL | O | H2O
reactant | NaOCN | 64 mg | O([Na])C#N
reactant | water | 70 mL | O | H2O
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | 6,7-Methylenedioxy-4-phenylquinazolin-2(1H)-one | 104 mg, 47% | C1OC=2C=C3C(=NC(NC3=CC2O1)=O)C1=CC=CC=C1 | C15H10N2O3
